US07981896B2
4-[4-(5-Cyclohexylcarbamoyl-3-methylpyrazol-1-yl)phenoxy]piperidine-1-carboxylic acid tert-butyl ester.
To a solution of 2-(4-hydroxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid cyclohexylamide (300 mg, 1.00 mmol) and triphenylphosphine (291 mg, 1.11 mmol) in tetrahydrofuran (5 mL) was added 1-tert-butoxycarbonyl-4-hydroxypiperidine (221 mg, 1.10 mmol) followed by dropwise addition of diisopropylazodicarboxylate (216 μL, 1.10 mmol). The solution was stirred at room temperature overnight, concentrated and dissolved in ethyl acetate. The ethyl acetate was washed with water, dried (MgSO4) and concentrated to give the crude product in quantitative yield. LC-MS (C27H38N4O4 calculated 482) m/z 483 (M+H).

reactant | 2-(4-hydroxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid cyclohexylamide | 1.00 mmol, 300 mg | C1(CCCCC1)NC(=O)C=1N(N=C(C1)C)C1=CC=C(C=C1)O | C17H21N3O2
reactant | triphenylphosphine | 1.11 mmol, 291 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 1.10 mmol, 221 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | diisopropylazodicarboxylate | 1.10 mmol, 216 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[4-(5-Cyclohexylcarbamoyl-3-methylpyrazol-1-yl)phenoxy]piperidine-1-carboxylic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N1N=C(C=C1C(NC1CCCCC1)=O)C | C27H38N4O4
